* Level-1 NMOS common-source stage: channel thermal noise plus flicker
Vdd vdd 0 DC 5
Vg g 0 DC 2 AC 1
Rd vdd d 2k
M1 d g 0 0 nch w=10u l=1u
.model nch nmos level=1 vto=1 kp=200u lambda=0.01 tox=1e-8 kf=1e-30 af=1
.noise v(d) Vg dec 2 1 1e6
.print noise onoise_spectrum inoise_spectrum
.end
